US04301287
(a) Ethyl 1-methoxycarbonyl-3-oxopiperidine-4-carboxylate (IVa)
A solution of ethyl 1-benzyl-3-oxopiperidine-4-carboxylate (Iselin, B. M. and Hoffmann, K., Helv. Chim. Acta, 1954, 37, 178) (14.0 g; 47 mmol) in aqueous ethanol (300 ml; 50%) was hydrogenated (ca. 300 kPa) in a PARR hydrogenation apparatus by using a 10% Pd-C catalyst (1.4 g). The reaction mixture was filtered and evaporated to dryness in vacuo. To an ice cooled solution of the residue in water (50 ml) was added with stirring an iced solution of potassium carbonate (19.4 g; 140 mmol) in water (20 ml) followed by addition of methyl chloroformate (11.3 g; 120 mmol). Stirring was continued at 0° C. for 30 minutes and at 25° C. for 30 minutes. The mixture was extracted with three 100 ml portions of ether. The combined and dried (Na2SO4) ether phases were evaporated in vacuo to give 10.0 g of crude product. Ball-tube distillation at 40-130 Pa (oven temperature 170° C.) gave IVa (9.0 g; 84%) as a colourless oil, which slowly crystallized, m.p. 36°-38° C. IR (film): 2980-2850 (several bands, m-s), 1700 (s), 1655 (s), 1620 (m) cm-1. 1H NMR (CCl4): δ12.3 (1 H, s), 4.13 (q, J 7 Hz) and 4.0-3.9 (m) (a total of 4 H), 3,62 (3 H, s), 3,43 (2 H, t, J 6 Hz), 2.4-2.1 (2 H, m), 1.30 (3 H, t, J 7 Hz).

reactant | ethyl 1-benzyl-3-oxopiperidine-4-carboxylate | 47 mmol, 14.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O | C15H19NO3
reactant | potassium carbonate | 140 mmol, 19.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroformate | 120 mmol, 11.3 g | ClC(=O)OC | C2H3ClO2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | Pd-C | 1.4 g | [Pd] | Pd
solvent | water | 20 ml | O | H2O
product | Ethyl 1-methoxycarbonyl-3-oxopiperidine-4-carboxylate | 10.0 g | COC(=O)N1CC(C(CC1)C(=O)OCC)=O | C10H15NO5
